US07947851B2
Step a) Formation of methyl 2-fluoro-5-[(hexylamino)methyl]benzoate
To solution of 2-fluoro-5-formylbenzoic acid methyl ester (1.0 g; 5.49 mmol) in anhydrous DCE (50 mL) were added hexylamine (Aldrich, 0.87 mL; 6.59 mmol), triacetoxyborohydride (1.74 g; 8.24 mmol) and acetic acid (0.47 mL; 8.24 mmol). The resulting mixture was stirred at room temperature under N2 atmosphere for 5 hours. The mixture was poured into a saturated solution of NaHCO3 and extracted with DCM (2×200 mL). The combined organic layers were washed with brine, dried over magnesium sulfate, filtrated and the solvent was removed under reduced pressure. Purification by flash chromatography on silica gel (DCM/MeOH/NH4OH, 98:2:0.1) gave 920 mg (63%) of the title compound as a yellow cream. HPLC, Rt: 2.34 min (purity=94.9%), LC/MS: M+(ESI): 268.1, 1H NMR (CDCl3) δ: 7.8 (dd, J=2.2, 8.2 Hz, 1H), 7.42 (m, 1H), 7.00 (dd, J=8.2, 2.2 Hz, 1H), 3.91 (s, 3H), 3.76 (s, 2H), 2.58 (t, J=7.1 Hz, 2H), 1.46 (qt, J=6.7 Hz, 2H), 1.22 (m, 6H), 0.86 (t, J=6.7 Hz, 3H).

reactant | 2-fluoro-5-formylbenzoic acid methyl ester | 5.49 mmol, 1.0 g | COC(C1=C(C=CC(=C1)C=O)F)=O | C9H7FO3
reactant | hexylamine | 6.59 mmol, 0.87 mL | C(CCCCC)N | C6H15N
reactant | triacetoxyborohydride | 8.24 mmol, 1.74 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
reactant | acetic acid | 8.24 mmol, 0.47 mL | C(C)(=O)O | C2H4O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCE | 50 mL | ClCCCl | C2H4Cl2
product | methyl 2-fluoro-5-[(hexylamino)methyl]benzoate | 920 mg, 63% | FC1=C(C(=O)OC)C=C(C=C1)CNCCCCCC | C15H22FNO2
